US07078428B2
4-Bromo-N-isobutylphthalimide is prepared as described in Example 2, starting with 20 g of 4-bromophthalic anhydride, 9.2 cm3 of isobutylamine and a catalytic amount of para-toluenesulfonic acid in 200 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 6 hours and is then cooled to a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C., and the residue is then taken up in 350 cm3 of ethyl acetate and 300 cm3 of saturated sodium hydrogen carbonate solution. The aqueous phase is separated out after settling has taken place and then extracted twice with 350 cm3 of ethyl acetate. The combined organic extracts are washed with 300 cm3 of saturated brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 23.6 g of 4-bromo-N-isobutylphthalimide are thus obtained in the form of a white powder (Rf=0.91, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | 4-bromophthalic anhydride | 20 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | isobutylamine | 9.2 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-N-isobutylphthalimide | 23.6 g | BrC=1C=C2C(C(=O)N(C2=O)CC(C)C)=CC1 | C12H12BrNO2
